US08138347B2
c) 3-(1-piperidinylsulfonyl)-5-[4-(4-pyridinyl)-6-quinolinyl]-2-pyridinamine
To a cold (5° C.) solution of the 0.456 M solution of 2-amino-5-[4-(4-pyridinyl)-6-quinolinyl]-3-pyridinesulfonyl chloride (2 mL, 0.912 mmol) in chlorosulfonic acid from above was added anhydrous dioxane (1 mL) and piperidine (1.8 mL, 18.24 mmol). After 30 minutes of stirring, pyridine (1 mL, 12.3 mmol) was added and the reaction mixture stirred for an additional hour at room temperature. The reaction mixture was concentrated in vacuo, the residue dissolved in CH2Cl2 and the pH adjusted to 14 using 6 N NaOH (aq). The solution was extracted with CH2Cl2 (×4) and the combined organic layers dried (Na2SO4), filtered and concentrated in vacuo. The resulting residue was purified twice by silica gel chromatography (0-5% MeOH in EtOAC) to give the title compound as a pale yellow solid (269 mg, 66% yield). MS(ES)+ m/e 446.3 [M+H]+.

reactant | 2-amino-5-[4-(4-pyridinyl)-6-quinolinyl]-3-pyridinesulfonyl chloride | 0.912 mmol, 2 mL | NC1=NC=C(C=C1S(=O)(=O)Cl)C=1C=C2C(=CC=NC2=CC1)C1=CC=NC=C1 | C19H13ClN4O2S
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
reactant | piperidine | 18.24 mmol, 1.8 mL | N1CCCCC1 | C5H11N
reactant | pyridine | 12.3 mmol, 1 mL | N1=CC=CC=C1 | C5H5N
solvent | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | 3-(1-piperidinylsulfonyl)-5-[4-(4-pyridinyl)-6-quinolinyl]-2-pyridinamine | 269 mg, 66% yield | N1(CCCCC1)S(=O)(=O)C=1C(=NC=C(C1)C=1C=C2C(=CC=NC2=CC1)C1=CC=NC=C1)N | C24H23N5O2S
